US20010027196A1
To a stirred solution of 300 mg (1.22 mmol) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile in 10 ml dioxane under argon at room temperature were added 0.41 ml (1.22 mmol) (1-ethoxyvinyl)tributylstannane and 86 mg (0.12 mmol) bis(triphenyl-phosphine)palladium(II) chloride. The reaction mixture was heated at reflux for 16 h, then cooled to room temperature, 2 g of kieselgel added, and the mixture concentrated in vacuo. Flash chromatography (hexane then 1/1 ethyl acetate/hexane) followed by trituration in ether/hexane afforded 140 mg (48%) 2-amino-4-(1-ethoxy-vinyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile as a white crystalline solid. EI-MS m/e (%): 236 (M+, 17), 221 ([M—CH3]+, 61), 207 ([M—C2H5]+, 32), 192 ([M—C3H8]+, 100).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 1.22 mmol, 300 mg | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | (1-ethoxyvinyl)tributylstannane | 1.22 mmol, 0.41 ml | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenyl-phosphine)palladium(II) chloride | 0.12 mmol, 86 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-(1-ethoxy-vinyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 140 mg, 48% | NC1=NC(=C(C(=N1)C(=C)OCC)C#N)SC | C10H12N4OS
